US09416132B2
82. 2-(trans-3-((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclopentyl)propan-2-ol (EX. 8-82)
A mixture of 2-(trans-3-aminocyclopentyl)propan-2-ol (82 mg, 0.57 mmol), 6-chloro-3-(3-chlorophenyl)imidazo[1,2-b]pyridazine (100 mg, 0.38 mmol) and KF (66.2 mg, 1.14 mmol) in DMSO (1 mL) was stirred at 130° C. overnight. LCMS showed the reaction was complete. The mixture was poured into water (100 mL) and extracted with EtOAc (50 mL*3). The combined extracts were dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by prep-HPLC to give EX. 8-82 (45 mg, 32%) as an off-white solid.

reactant | 2-(trans-3-aminocyclopentyl)propan-2-ol | 0.57 mmol, 82 mg | N[C@@H]1C[C@H](CC1)C(C)(C)O | C8H17NO
reactant | 6-chloro-3-(3-chlorophenyl)imidazo[1,2-b]pyridazine | 0.38 mmol, 100 mg | ClC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)Cl | C12H7Cl2N3
reactant | KF | 1.14 mmol, 66.2 mg | [F-].[K+]
reactant | water | 100 mL | O | H2O
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 2-(trans-3-((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclopentyl)propan-2-ol | ClC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)N[C@@H]2C[C@H](CC2)C(C)(C)O | C20H23ClN4O
